### PR TITLE
[Merged by Bors] - feat(Topology/Algebra): add ContinuousLinearMap.fromCompletion

### PR DESCRIPTION
**Pull request by TJHeeringa**
`Uniform.Completion.extension` maps a map $f:\alpha\to\beta$ to $f:\text{Completion }\alpha \to \beta$. There are theorems that show that this operations preserves continuous, uniformly, continuous and LipschitzWith, but not linearity. This adds that theorem.

---

Asked at  [#Is there code for X? > Theorem for Completion.extension preserving linearity](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Theorem.20for.20Completion.2Eextension.20preserving.20linearity/with/599463628) whether it exists. No response given.

I placed it in other parts about extensions, but I needed to add an (flagged as costly) import for making this work. Hence, I am not sure I added it in the right spot.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 1]
```diff
@@ -96,6 +97,23 @@ instance [NormedField A] [CompletableTopField A] :
 
 end Algebra
 
+theorem isLinearMap_extension {𝕜 E F : Type*} [RCLike 𝕜] [UniformSpace E] [AddCommGroup E]
+    [Module 𝕜 E] [ContinuousAdd E] [UniformContinuousConstSMul 𝕜 E] [IsUniformAddGroup E]
+    [UniformSpace F] [AddCommGroup F] [Module 𝕜 F] [T2Space F] [ContinuousAdd F] [CompleteSpace F]
+    [ContinuousConstSMul 𝕜 F] [IsUniformAddGroup F] {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) :
+    IsLinearMap 𝕜 (Completion.extension f) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Completion.lean]: Instead of proving `IsLinearMap`, you should be bundling `Completion.extension` into a term of type `Completion E →L[𝕜] F` (note that since `f` is uniformly continuous, the extension is uniformly continuous too). [Loogle](https://loogle.lean-lang.org/?q=UniformSpace.Completion%2C+ContinuousLinearMap) tells me we don't have this yet.

Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Module/Completion.lean]: I bundled it into `.extensionL` and created a few lemmas based on the ones that exist for `.extension`. I didn't make corresponding lemmas for the `_coe` and `_map` lemmas because `UniformSpace.Completion.coe'` doesn't have a linear counterpart.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 2]
```diff
@@ -97,22 +97,46 @@ instance [NormedField A] [CompletableTopField A] :
...
+    cont := continuous_extension
+  }
+
+@[simp]
+lemma extensionL_apply {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) (e : Completion E) :
+    extensionL hf e = Completion.extension f e := rfl
+
+lemma uniformContinuous_extensionL {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) :
+    UniformContinuous (extensionL hf) :=
+  uniformContinuous_def.mpr (UniformSpace.Completion.uniformContinuous_extension)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Completion.lean]: Shouldn't be necessary because we have [ContinuousLinearMap.uniformContinuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.html#ContinuousLinearMap.uniformContinuous).

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 3]
```diff
@@ -96,6 +97,47 @@ instance [NormedField A] [CompletableTopField A] :
 
 end Algebra
 
+section Extension
+
+variable {𝕜 E F : Type*} [RCLike 𝕜] [UniformSpace E] [AddCommGroup E] [Module 𝕜 E]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Completion.lean]: There's no reason to restrict to `RCLike` here. This works over a `NormedField`, and maybe works even more generally than that.

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 4]
```diff
@@ -96,6 +97,47 @@ instance [NormedField A] [CompletableTopField A] :
...
+        (fun _ _ => by
+          simp_rw [← Completion.coe_add, UniformSpace.Completion.extension_coe hf, f.map_add])
+      map_smul' c a := UniformSpace.Completion.induction_on a (isClosed_eq
+        (h_cont.comp (continuous_const_smul c)) ((h_cont.comp continuous_id).const_smul c))
+        (fun _ => by
+          simp [← Completion.coe_smul, UniformSpace.Completion.extension_coe hf, f.map_smul]
+        )
+    }
+    cont := continuous_extension
+  }
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Completion.lean]: This should be able to be simplified even further. In particular, it *should* be the case that `fun_prop` works to handle the `isClosed_eq` arguments in `map_smul'`, but currently it gets stuck in unfolding hell. I have opened a Zulip thread about it: [#mathlib4 > should we unexpose &#96;UniformSpace.Completion&#96;?](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/should.20we.20unexpose.20.60UniformSpace.2ECompletion.60.3F/with/606097917). 
```suggestion
def extensionL {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) : Completion E →L[𝕜] F where
  toFun := Completion.extension f
  map_add' a b := Completion.induction_on₂ a b (isClosed_eq (by fun_prop) (by fun_prop)) <| by
    simp [extension_coe, hf, ← coe_add]
  map_smul' c a := Completion.induction_on a
      (isClosed_eq (continuous_extension.comp (continuous_const_smul c))
        (continuous_extension.const_smul c)) <| by
    simp [extension_coe, hf, ← coe_smul]
```
About the naming `extensionL`, please see the following Zulip thread, and ask there how you should name this. [#mathlib4 > naming convention: &#96;UniformSpace.Completion&#96; morphisms](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/naming.20convention.3A.20.60UniformSpace.2ECompletion.60.20morphisms/with/585427118)

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 5]
```diff
@@ -96,6 +97,47 @@ instance [NormedField A] [CompletableTopField A] :
...
+@[simp]
+lemma extensionL_apply {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) (e : Completion E) :
+    extensionL hf e = Completion.extension f e := rfl
+
+lemma uniformContinuous_extensionL {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) :
+    UniformContinuous (extensionL hf) :=
+  uniformContinuous_def.mpr (UniformSpace.Completion.uniformContinuous_extension)
+
+lemma extensionL_unique {f : E →ₗ[𝕜] F} (hf : UniformContinuous f) {g : Completion E →L[𝕜] F}
+    (hg : UniformContinuous g) (h : ∀ (e : E), f e = g e) : extensionL hf = g := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Completion.lean]: I suspect the `UniformContinuous g` condition is redundant.

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 6]
```diff
@@ -7,6 +7,7 @@ module
 
 public import Mathlib.Analysis.Normed.Group.Completion
 public import Mathlib.Analysis.Normed.Operator.NormedSpace
+public import Mathlib.Analysis.RCLike.Basic
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Completion.lean]:
```suggestion
```

File: Mathlib/Analysis/Normed/Module/Completion.lean (hunk 2 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Module/Completion.lean]: There is a slight difference between `(extensionL hf).uniformContinuous` and `uniformContinuous_extensionL hf`. The former additionally requires `[IsUniformAddGroup F]`.

File: Mathlib/Analysis/Normed/Module/Completion.lean (hunk 5 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Module/Completion.lean]: If it is, I don't see how.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Module/Completion.lean
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Completion.lean:1]: This doesn't need to be in the `Analysis` folder, you can probably put this all in `Topology/Algebra/LinearMapCompletion`.

File: Mathlib/Analysis/Normed/Module/Completion.lean [hunk 7]
```diff
@@ -98,4 +98,38 @@ end Algebra
...
+open UniformSpace.Completion
+
+variable {R₁ R₂ E F : Type*} [Semiring R₁] [Semiring R₂] {σ₁₂ : R₁ →+* R₂} [UniformSpace E]
+    [AddCommGroup E] [Module R₁ E] [UniformContinuousConstSMul R₁ E] [IsUniformAddGroup E]
+    [UniformSpace F] [AddCommGroup F] [Module R₂ F] [T2Space F] [ContinuousAdd F] [CompleteSpace F]
+    [ContinuousConstSMul R₂ F]
+
+/-- Extension of a linear function to a linear function over the completion. This is the continuous
+linear version of `UniformSpace.Completion.extension`. -/
+def fromCompletion {f : E →ₛₗ[σ₁₂] F} (hf : UniformContinuous f) : Completion E →SL[σ₁₂] F where
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Completion.lean]: Would it also be worth having the `ContinuousLinearMap.fromCompletion` definition without the `UniformContinuous` hypothesis (but with a `IsUniformAddGroup F`?

Comment (TJHeeringa) [reply Mathlib/Analysis/Normed/Module/Completion.lean]: If you have `IsUniformAddGroup F`, you can just write `fromCompletion f.uniformContinuous`. So, doesn't seem to be really worth it.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 8]
```diff
@@ -56,4 +58,42 @@ lemma coe_completion (f : α →SL[σ] β) :
...
+section fromCompletion
+
+variable {R₁ R₂ E F : Type*} [Semiring R₁] [Semiring R₂] {σ₁₂ : R₁ →+* R₂} [UniformSpace E]
+    [AddCommGroup E] [Module R₁ E] [UniformContinuousConstSMul R₁ E] [IsUniformAddGroup E]
+    [UniformSpace F] [AddCommGroup F] [Module R₂ F] [T2Space F] [ContinuousAdd F] [CompleteSpace F]
+    [ContinuousConstSMul R₂ F]
+
+/-- Extension of a linear function to a linear function over the completion. This is the continuous
+linear version of `UniformSpace.Completion.extension`. -/
+noncomputable def fromCompletion {f : E →ₛₗ[σ₁₂] F} (hf : UniformContinuous f) :
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: If we go for this generality, maybe we should also generalise [AddMonoidHom.extension](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/GroupCompletion.html#AddMonoidHom.extension) to take `UniformContinuous` instead of `Continuous` in a `[IsUniformAddGroup F]`.

Comment (themathqueen) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: I'm not sure how useful that generality is, so I'm not suggesting it, just thinking out loud.

Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: In any case (whether you want to go with this generality or not), I think `f` should be a continuous linear map here, since it is continuous anyway, and it's also in the `ContinuousLinearMap` namespace

```suggestion
noncomputable def fromCompletion {f : E →SL[σ₁₂] F} (hf : UniformContinuous f) :
```

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 9]
```diff
@@ -26,6 +26,8 @@ namespace ContinuousLinearMap
 
 open UniformSpace Completion
 
+section completion
+
 variable {α β : Type*} {R₁ R₂ : Type*} [UniformSpace α] [AddCommGroup α] [IsUniformAddGroup α]
   [Semiring R₁] [Module R₁ α] [UniformContinuousConstSMul R₁ α] [Semiring R₂] [UniformSpace β]
   [AddCommGroup β] [IsUniformAddGroup β] [Module R₂ β] [UniformContinuousConstSMul R₂ β]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: can you try mixing these variables with your variables and then putting them outside both sections so you can use them?

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 10]
```diff
@@ -56,4 +58,42 @@ lemma coe_completion (f : α →SL[σ] β) :
...
+    [UniformSpace F] [AddCommGroup F] [Module R₂ F] [T2Space F] [ContinuousAdd F] [CompleteSpace F]
+    [ContinuousConstSMul R₂ F]
+
+/-- Extension of a linear function to a linear function over the completion. This is the continuous
+linear version of `UniformSpace.Completion.extension`. -/
+noncomputable def fromCompletion {f : E →SL[σ₁₂] F} (hf : UniformContinuous f) :
+    Completion E →SL[σ₁₂] F where
+  toFun := Completion.extension f
+  map_add' a b := induction_on₂ a b (isClosed_eq (by fun_prop) (by fun_prop)) <| by
+    simp [extension_coe, hf, ← coe_add]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: I'm still not convinced about this generality. @j-loreaux, what do you think of this? i.e., what do you think of having `UniformContinuous f` instead of `[IsUniformAddGroup F]`?

Ideally, we should define this via `AddMonoidHom.extension`.

But, also, I think we can define this via `ContinuousLinearMap.extend` and `UniformSpace.Completion.toComplL`. I opened some PRs to generalize and move them outside of `Analysis` (#41740, #41743). (Not saying that the definition should go through `ContinuousLinearMap.extend`, but that we can have a lemma saying that they are equal.)

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean (hunk 9 above)
Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: Most variables indeed overlapped. I changed `E` to `α` and `F` to `β` instead of the other way around, because someone bothered changing the original `G` and `H` of `completion` to `α` and `β` in the past.

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 11]
```diff
@@ -56,4 +61,39 @@ lemma coe_completion (f : α →SL[σ] β) :
...
 
+end completion
+
+section fromCompletion
+
+variable [T2Space β] [ContinuousAdd β] [CompleteSpace β]
+
+/-- Extension of a linear function to a linear function over the completion. This is the continuous
+linear version of `UniformSpace.Completion.extension`. -/
+noncomputable def fromCompletion {f : α →SL[σ] β} (hf : UniformContinuous f) :
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: For now, let's drop `UniformContinuous` and change the hypothesis to `IsUniformAddGroup`. And please use `AddMonoidHom.extension` in the definition instead of reproving stuff.

If you feel strongly that it should be this way, then you can open a zulip thread about generalizing it (not only for this definition, but also the other `.fromCompletion`s).

Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: I've done so as requested. This does mean the theorem `uniformContinuous_fromCompletion` became redundant and thus I removed it. I do have added `toAddMonoidHom_fromCompletion`.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 12]
```diff
@@ -56,4 +60,34 @@ lemma coe_completion (f : α →SL[σ] β) :
...
+/-- Extension of a linear function to a linear function over the completion. This is the continuous
+linear version of `UniformSpace.Completion.extension`. -/
+noncomputable def fromCompletion (f : α →SL[σ] β) :
+    Completion α →SL[σ] β where
+  __ := f.toAddMonoidHom.extension f.continuous
+  map_smul' c a := induction_on a
+      (isClosed_eq (continuous_extension.comp (continuous_const_smul c))
+        ((AddMonoidHom.continuous_extension f.toAddMonoidHom f.continuous).const_smul (σ c))) <| by
+    simp [← Completion.coe_smul, AddMonoidHom.extension_coe]
+  cont := AddMonoidHom.continuous_extension f.toAddMonoidHom f.continuous
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: can you attribute `AddMonoidHom.continuous_extension` with `fun_prop`?
then you wouldn't need to do this

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean (hunk 11 above)
Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: I have made a Zulip thread at [#mathlib4 > Generalizing &#96;.fromCompletion&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Generalizing.20.60.2EfromCompletion.60/with/614290377).

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 13]
```diff
@@ -56,4 +60,34 @@ lemma coe_completion (f : α →SL[σ] β) :
...
+variable [T2Space β] [CompleteSpace β]
+
+/-- Extension of a linear function to a linear function over the completion. This is the continuous
+linear version of `UniformSpace.Completion.extension`. -/
+noncomputable def fromCompletion (f : α →SL[σ] β) :
+    Completion α →SL[σ] β where
+  __ := f.toAddMonoidHom.extension f.continuous
+  map_smul' c a := induction_on a
+      (isClosed_eq (continuous_extension.comp (continuous_const_smul c))
+        ((AddMonoidHom.continuous_extension f.toAddMonoidHom f.continuous).const_smul (σ c))) <| by
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: after attributing `AddMonoidHom.continuous_extension` with `fun_prop` you can probably do this
```suggestion
        (by fun_prop) <| by
```
or maybe `dsimp; fun_prop`?

(untested, so please test before applying)

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean (hunk 12 above)
Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: That works 😄

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean (hunk 13 above)
Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: `fun_prop` alone was not working, but with `dsimp` it does.

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 14]
```diff
@@ -56,4 +60,36 @@ lemma coe_completion (f : α →SL[σ] β) :
 theorem completion_apply_coe (f : α →SL[σ] β) (a : α) :
     f.completion a = f a := by simp [coe_completion, map_coe]
 
+end completion
+
+section fromCompletion
+
+variable [T2Space β] [CompleteSpace β]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]:
```suggestion
variable [T0Space β] [CompleteSpace β]
```

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean (hunk 10 above)
Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: Discussion moved to [#mathlib4 > Generalizing &#96;.fromCompletion&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Generalizing.20.60.2EfromCompletion.60/with/614290377).

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 15]
```diff
@@ -26,10 +28,12 @@ namespace ContinuousLinearMap
...
 open UniformSpace Completion
 
-variable {α β : Type*} {R₁ R₂ : Type*} [UniformSpace α] [AddCommGroup α] [IsUniformAddGroup α]
-  [Semiring R₁] [Module R₁ α] [UniformContinuousConstSMul R₁ α] [Semiring R₂] [UniformSpace β]
-  [AddCommGroup β] [IsUniformAddGroup β] [Module R₂ β] [UniformContinuousConstSMul R₂ β]
-  {σ : R₁ →+* R₂}
+variable {α β : Type*} {R₁ R₂ : Type*} [Semiring R₁] [Semiring R₂] {σ : R₁ →+* R₂} [UniformSpace α]
+  [AddCommGroup α] [IsUniformAddGroup α] [Module R₁ α] [UniformContinuousConstSMul R₁ α]
+  [UniformSpace β] [AddCommGroup β] [Module R₂ β] [UniformContinuousConstSMul R₂ β]
+  [IsUniformAddGroup β]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: Since you're reorganizing this anyway. Let's reorganize them properly? (or revert?)

```suggestion
variable {α β : Type*} {R₁ R₂ : Type*} [Semiring R₁] [Semiring R₂] {σ : R₁ →+* R₂}
  [UniformSpace α] [UniformSpace β] [AddCommGroup α] [AddCommGroup β]
  [IsUniformAddGroup α] [IsUniformAddGroup β]
  [Module R₁ α] [Module R₂ β] [UniformContinuousConstSMul R₁ α] [UniformContinuousConstSMul R₂ β]
```
Or something like this? Please make sure the lines aren't too long before applying.

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean (hunk 15 above)
Comment (TJHeeringa) [reply Mathlib/Topology/Algebra/LinearMapCompletion.lean]: I mostly reverted it. The only change now is the placement of ` [Semiring R₂]`. That was inconsistent with the placement of ` [Semiring R₁]` and the usual placement (as far as my quick find-all showed me at least) of placing it before and not between the list of types it was used in. 

I hope that that is alright.

File: Mathlib/Topology/Algebra/LinearMapCompletion.lean [hunk 16]
```diff
@@ -26,10 +28,12 @@ namespace ContinuousLinearMap
...
 open UniformSpace Completion
 
-variable {α β : Type*} {R₁ R₂ : Type*} [UniformSpace α] [AddCommGroup α] [IsUniformAddGroup α]
-  [Semiring R₁] [Module R₁ α] [UniformContinuousConstSMul R₁ α] [Semiring R₂] [UniformSpace β]
-  [AddCommGroup β] [IsUniformAddGroup β] [Module R₂ β] [UniformContinuousConstSMul R₂ β]
-  {σ : R₁ →+* R₂}
+variable {α β : Type*} {R₁ R₂ : Type*} [Semiring R₁] [UniformSpace α] [AddCommGroup α]
+  [IsUniformAddGroup α] [Module R₁ α] [UniformContinuousConstSMul R₁ α] [Semiring R₂]
+  [UniformSpace β] [AddCommGroup β] [Module R₂ β] [UniformContinuousConstSMul R₂ β]
+  [IsUniformAddGroup β] {σ : R₁ →+* R₂}
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/LinearMapCompletion.lean]: As far as I can tell, these are the same up to reordering. So here I suggest revert to the original to reduce the diff. This will help prevent confusion for anyone else who sees it.
```suggestion
variable {α β : Type*} {R₁ R₂ : Type*} [UniformSpace α] [AddCommGroup α] [IsUniformAddGroup α]
  [Semiring R₁] [Module R₁ α] [UniformContinuousConstSMul R₁ α] [Semiring R₂] [UniformSpace β]
  [AddCommGroup β] [IsUniformAddGroup β] [Module R₂ β] [UniformContinuousConstSMul R₂ β]
  {σ : R₁ →+* R₂}
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
